US06656938B2
A solution of tert-butyl 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethylcarbamate (7.52 g, 20.0 mmol) in toluene was treated with 1.5 g of 5% Pt on carbon and shaken under H2 (3 Kg/cm2) for 24 h. The solution was then filtered through a Celite pad and concentrated to give 6.92 g of crude tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate as a yellow syrup.

reactant | tert-butyl 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethylcarbamate | 20.0 mmol, 7.52 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H24N4O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pt on carbon | 1.5 g | [Pt] | Pt
product | tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate | 6.92 g | NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H26N4O3
